US08492568B2
Step 2: 1-[2-(cyclopentyloxy)-3-methoxyphenyl]methanamine hydrochloride
To a stirred solution of 2-(cyclopentyloxy)-3-methoxybenzaldehyde oxime (3 g, 12.448 mmol) in methanol (10 ml) was added catalytic amount of Raney nickel (0.30 g) at room temperature. The reaction mixture was stirred for 3 h at 50 psi hydrogen pressure in Paar hydrogenation apparatus. The reaction mixture was filtered through celite bed, dried (Na2SO4), filtered and concentrated to get the crude product. The crude product was then dissolved in ethyl acetate, to which hydrochloric acid in ethyl acetate was added dropwise at 10° C. and stirred for 20 min and then filtered and dried to yield 2.86 g of the product, 1H NMR (300 MHz, DMSO-d6) δ 1.57-1.63 (m, 4H), 1.65-1.72 (m, 4H), 3.81 (s, 3H), 3.94 (s, 2H), 4.90 (br s, 1H), 7.08 (s, 3H), 8.39 (br s, 3H).

reactant | 2-(cyclopentyloxy)-3-methoxybenzaldehyde oxime | 12.448 mmol, 3 g | C1(CCCC1)OC1=C(C=NO)C=CC=C1OC | C13H17NO3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
catalyst | Raney nickel | 0.30 g | [Ni] | Ni
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-(cyclopentyloxy)-3-methoxyphenyl]methanamine hydrochloride | 2.86 g | Cl.C1(CCCC1)OC1=C(C=CC=C1OC)CN | InChI=1S/C13H19NO2.ClH/c1-15-12-8-4-5-10(9-14)13(12)16-11-6-2-3-7-11;/h4-5,8,11H,2-3,6-7,9,14H2,1H3;1H
